### PR TITLE
feat: characterize when T-division equals zero

### PR DESCRIPTION
**Pull request by bollu**
This PR adds the lemma `Int.tdiv_eq_zero_iff_natAbs_lt_or_eq_zero` which shows that T-division equals zero iff the absolute value of the numerator is less than the denominator, or the denominator equals zero:

```lean
@[simp] theorem tdiv_eq_zero_iff_natAbs_lt_or_eq_zero {a : Int} {b : Int} :
    a.tdiv b = 0 ↔ (a.natAbs < b.natAbs ∨ b = 0):= by
```

This was used in reasoning about the MSB of `BitVec.sdiv`. The strategy was
superced, but this lemma was extracted from the earlier proof.

### CODE REVIEW

**Comment by bollu** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- 🟡 Mathlib branch [lean-pr-testing-8204](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8204) build against this PR was cancelled. (2025-05-02 11:08:09) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/14793687586)
- ✅ Mathlib branch [lean-pr-testing-8204](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8204) has successfully built against this PR. (2025-05-02 11:55:35) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/14793994561)
- ✅ Mathlib branch [lean-pr-testing-8204](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8204) has successfully built against this PR. (2025-05-12 10:56:50) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/14969460060)
- ✅ Mathlib branch [lean-pr-testing-8204](https://github.com/leanprover-community/mathlib4/compare/nightly-testing...lean-pr-testing-8204) has successfully built against this PR. (2025-06-06 14:49:47) [View Log](https://github.com/leanprover-community/mathlib4/actions/runs/15492370932)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ec9ff12fc65316c902224aa895a32ae943dcc762 --onto faffe863343211d03d07d4ef19d90a2aa9d6fc8c`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-14 14:47:32)

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 1]
```diff
@@ -1301,6 +1302,47 @@ theorem sign_tdiv (a b : Int) : sign (a.tdiv b) = if natAbs a < natAbs b then 0
...
+    subst hb
+    rw [Int.tdiv_neg]
+    simp only [Int.neg_eq_zero, natAbs_neg, natAbs_natCast]
+    norm_cast
+    apply Int.tdiv_ofNat_eq_zero_iff_natAbs_lt_or_eq_zero
+  · subst hb; simp
+  · obtain ⟨b, hb⟩ := eq_ofNat_of_zero_le (show 0 ≤ b by omega)
+    subst hb
+    norm_cast
+    apply Int.tdiv_ofNat_eq_zero_iff_natAbs_lt_or_eq_zero
```
Comment (luisacicolini) [inline src/Init/Data/Int/DivMod/Lemmas.lean:1345]:
```suggestion
    apply Int.tdiv_ofNat_eq_zero_iff_natAbs_lt_or_eq_zero
    
```
newline post theorem?

**Review by luisacicolini — APPROVED** [review]

**Review by tobiasgrosser — APPROVED** [review]
LGTM.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 2]
```diff
@@ -1301,6 +1301,41 @@ theorem sign_tdiv (a b : Int) : sign (a.tdiv b) = if natAbs a < natAbs b then 0
...
+-/
+theorem tdiv_ofNat_eq_zero_iff_natAbs_lt_or_eq_zero {a : Int} {b : Nat} :
+    a.tdiv b = 0 ↔ (a.natAbs < b ∨ b = 0) := by
+  rcases b with _|b
+  · simp
+  · simp only [natCast_add, cast_ofNat_Int, Nat.add_eq_zero, Nat.succ_ne_self, and_false, or_false]
+    suffices ∀ (a : Nat), (a : Int).tdiv (↑b + 1) = 0 ↔ a < b + 1 by
+      rcases a with _|a
+      · simpa using this _
+      · obtain ⟨n, hn⟩ := exists_eq_neg_ofNat (show -[a+1] ≤ 0 by omega)
```
Comment (luisacicolini) [inline src/Init/Data/Int/DivMod/Lemmas.lean]:
```suggestion
      · obtain ⟨n, hn⟩ := exists_eq_neg_ofNat (show -[a + 1] ≤ 0 by omega)
```

**Review by tobiasgrosser — APPROVED** [review]
LGTM. Thank you, @bollu.
